US04661607
A mixture of 1.8 g of 8-fluoro-3-hydroxy-9-oxo-9H-xanthene, 3.2 g of potassium carbonate, 3.7 g of ethyl bromoacetate and 100 ml of DMF was stirred at 60°-70° C. for 4 hours. After cooling the mixture, 5 g of sodium hydroxide and 100 ml of water were added, and the resulting mixture was stirred at 90°-100° C. for 30 minutes. After cooling, the mixture was rendered acidic with hydrochloric acid and the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from ethanol gave 2.0 g of 8-fluoro-9-oxo-9H-xanthene-3-yloxyacetic acid. m.p. 180°-183° C. This compound showed a mass spectrum having a molecular ion peak at m/e 288.

reactant | 8-fluoro-3-hydroxy-9-oxo-9H-xanthene | 1.8 g | FC=1C=CC=C2OC=3C=C(C=CC3C(C12)=O)O | C13H7FO3
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 3.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 8-fluoro-9-oxo-9H-xanthene-3-yloxyacetic acid | 2.0 g | FC=1C=CC=C2OC=3C=C(C=CC3C(C12)=O)OCC(=O)O | C15H9FO5
